datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C=CC[N+:21](C)(CCOC(=O)C(=C)C)[H:20].O=C(c1c2ccccc2cc2ccccc12)[O-:10]>>C=CC[N:21](C)CCOC(=O)C(=C)C.O=C(c1c2ccccc2cc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C1=C(/C=N/[O:21][H:20])SN=N1.O=C(c1cccc(S)c1)[O-:10]>>C1=C(/C=N/[O-:21])SN=N1.O=C(c1cccc(S)c1)[O:10][H:20] 10=20;20,21=21",
"CC1C[N+:21]([H:20])=C(C(C)(C)C)S1.O=C([O-])CN(CC(=O)[O-:10])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O>>CC1C[N:21]=C(C(C)(C)C)S1.O=C([O-])CN(CC(=O)[O:10][H:20])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O 10=20;20,21=21",
"Nc1n(-c2ccccc2)nn[n+:21]1[H:20].O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH-:10])cc21>>Nc1n(-c2ccccc2)nn[n:21]1.O=S1(=O)[N-]C=Nc2cc(Cl)c(S(=O)(=O)[NH:10][H:20])cc21 10=20;20,21=21",
"C1C[NH:10]CCS1.C=CC[N+:21](CC=C)(CC=C)[H:20]>>C1C[NH+:10]([H:20])CCS1.C=CC[N:21](CC=C)CC=C 10=20;20,21=21",
"Clc1ccc(C(Nc2ccccc2)[O-:10])cc1.O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1.O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1ccnc([S-])[n+:21]1[H:20].Oc1ccc2c(c1)cc1ccccc1[n:10]2>>Cc1ccnc([S-])[n:21]1.Oc1ccc2c(c1)cc1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)(C)c1cccc[n:10]1.NCC(=O)[O:21][H:20]>>CC(C)(C)c1cccc[n+:10]1[H:20].NCC(=O)[O-:21] 10=20;20,21=21",
"Cc1ccccc1[N+:21](=CN(C)C)[H:20].O=S(=O)(c1ccccc1)[N-:10]c1ncccn1>>Cc1ccccc1[N:21]=CN(C)C.O=S(=O)(c1ccccc1)[N:10](c1ncccn1)[H:20] 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Brc1ccc(CC[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"NCC(=O)[O-:10].Nc1cc2cc3ccccc3cc2[n+:21]([H:20])c1>>NCC(=O)[O:10][H:20].Nc1cc2cc3ccccc3cc2[n:21]c1 10=20;20,21=21",
"CC(N)=[N+:21](O)[H:20].CCOc1cccc(/[N:10]=C\N(C)C)c1>>CC(N)=[N:21]O.CCOc1cccc(/[N+:10](=C\N(C)C)[H:20])c1 10=20;20,21=21",
"CCCCOc1ccc(OCCC[N:10]2CCOCC2)cc1.O=[Se](c1cccc(-c2ccccc2)c1)[O:21][H:20]>>CCCCOc1ccc(OCCC[N+:10]2([H:20])CCOCC2)cc1.O=[Se](c1cccc(-c2ccccc2)c1)[O-:21] 10=20;20,21=21",
"C1CCc2c(n[n:10]c3c2CCCC3)C1.CC[N+:21](CC)(CC(=O)Nc1ccccc1C)[H:20]>>C1CCc2c(n[n+:10]([H:20])c3c2CCCC3)C1.CC[N:21](CC)CC(=O)Nc1ccccc1C 10=20;20,21=21",
"CCCC[NH:10]CCC#N.CC[NH+](CC)CCCC(C)Nc1cc[n+:21]([H:20])c2ccc(OC)cc12>>CCCC[NH+:10](CCC#N)[H:20].CC[NH+](CC)CCCC(C)Nc1cc[n:21]c2ccc(OC)cc12 10=20;20,21=21",
"CC[NH+](C)CCOCC[N+:21](C)(C)[H:20].CNc1cccc[n+]1[O-:10]>>CC[NH+](C)CCOCC[N:21](C)C.CNc1cccc[n+]1[O:10][H:20] 10=20;20,21=21",
"OCCCC[NH2:10].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n+:21]2[H:20])c[nH+]1>>OCCCC[NH2+:10][H:20].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n:21]2)c[nH+]1 10=20;20,21=21",
"C1CCN([N:10]2CCCCC2)CC1.Fc1ccccc1[NH2+:21][H:20]>>C1CCN([N+:10]2([H:20])CCCCC2)CC1.Fc1ccccc1[NH2:21] 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](CC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)c1[nH]c2ccccc2[n+:21]1[H:20].C[N:10](C)CCCCC(=O)Oc1cccc([N+](=O)[O-])c1>>CC(C)c1[nH]c2ccccc2[n:21]1.C[N+:10](C)(CCCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20] 10=20;20,21=21",
"Fc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Fc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)NCC[S:21][H:20].Cc1ncsc1C(=O)[O-:10]>>CC(=O)NCC[S-:21].Cc1ncsc1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(Nc2ccc([O-:10])cc2)cc(C)c1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Nc2ccc([O:10][H:20])cc2)cc(C)c1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)CCCC(=O)[O:21][H:20].COc1ccc([O-:10])cc1[N+](=O)[O-]>>CC(=O)CCCC(=O)[O-:21].COc1ccc([O:10][H:20])cc1[N+](=O)[O-] 10=20;20,21=21",
"N#Cc1cccc(S(=O)(=O)[NH-:10])c1.O=C(Cn1cnnn1)[O:21][H:20]>>N#Cc1cccc(S(=O)(=O)[NH:10][H:20])c1.O=C(Cn1cnnn1)[O-:21] 10=20;20,21=21",
"CCCC[NH2+]CC[NH:10]CCCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH2+]CC[NH+:10](CCCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[C@@H]1C[C@@H]1C(=O)[O-:10].Cc1cc[n+:21]([H:20])c([O-])n1>>C[C@@H]1C[C@@H]1C(=O)[O:10][H:20].Cc1cc[n:21]c([O-])n1 10=20;20,21=21",
"C(=N/[O-:10])\c1ccccn1.CCCSC(=O)CCCc1c[nH]c[n+:21]1[H:20]>>C(=N/[O:10][H:20])\c1ccccn1.CCCSC(=O)CCCc1c[nH]c[n:21]1 10=20;20,21=21",
"Cc1cnc2c([O:21][H:20])cccc2c1C.c1ccc([NH:10]C2CCCCC2)cc1>>Cc1cnc2c([O-:21])cccc2c1C.c1ccc([NH+:10](C2CCCCC2)[H:20])cc1 10=20;20,21=21",
"Oc1ccc(Nc2ccc([O:21][H:20])cc2)cc1.[O-]c1ccc(Nc2ccc([O-:10])cc2)cc1>>Oc1ccc(Nc2ccc([O-:21])cc2)cc1.[O-]c1ccc(Nc2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"C[NH:10]CCCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCOC(=O)CC(c1ccccc1)[N:10](C)C.c1ccc(CCCCC[NH2+:21][H:20])nc1>>CCOC(=O)CC(c1ccccc1)[N+:10](C)(C)[H:20].c1ccc(CCCCC[NH2:21])nc1 10=20;20,21=21",
"CCS(=O)[O:21][H:20].Oc1cccc(C(c2ccccc2)=[NH:10])c1>>CCS(=O)[O-:21].Oc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
